US07749992B2
Isopropyl 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2,3,4,5-tetrahydro-naphtho[2,3-b]azepine-1-carboxylate
This compound was prepared utilizing the same methodology described in Example 1 wherein replacement of 2-amino-benzoic acid methyl ester with methyl 3-amino-naphthalene-2-carboxylate following the procedure of Example 1, Steps 1-8 for the synthesis of 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylic acid isopropyl ester. CI MS 567 (M+H).

reactant | methyl 3-amino-naphthalene-2-carboxylate | NC=1C(=CC2=CC=CC=C2C1)C(=O)OC | C12H11NO2
reactant | 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=CC=C2 | C25H26F6N2O3
product | Isopropyl 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2,3,4,5-tetrahydro-naphtho[2,3-b]azepine-1-carboxylate | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C1C=CC=CC1=C2)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C29H28F6N2O3
